US07678823B2
1-(4-tert-butylcyclohex-1-enyl)pyrrolidine:
A 50 mL round-bottomed flask containing 4-tert-butylcyclohexanone (6.01 gm) in anhydrous toluene (20 mL) was fitted with a Dean-Stark trap containing 3 A molecular sieves, reflux condenser and a heating mantle. Pyrrolidine (6.00 mL) was added, and the solution heated to reflux for 18 hr. The solvent was evaporated and the crude product was used directly for the next reaction.

reactant | 4-tert-butylcyclohexanone | 6.01 gm | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | Pyrrolidine | 6.00 mL | N1CCCC1 | C4H9N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-tert-butylcyclohex-1-enyl)pyrrolidine | C(C)(C)(C)C1CC=C(CC1)N1CCCC1 | C14H25N
